US04623650
Ethyl 9-fluoro-10-phenyl-3-methyl-7-oxo-2,3-dihydro-(7H)-pyrido-(1,2,3-de)-1,4-benzoxazine-6-carboxylate
A solution of phenyl lithium (2.7M) in etherbenzene [(3:7), 1.5 ml, 4 mmol] was added to dry tetrahydrofuran (10 ml) and the resulting solution was cooled to -78° C. with stirring under a nitrogen atmosphere. A solution of freshly fused zinc chloride (0.54 g, 4 mmol) in dry tetrahydrofuran (10 ml) was added dropwise over 5 minutes. The clear, colorless solution was warmed to -30° C. over 20 minutes. Ethyl 9-fluoro-10-bromo-3-methyl-7-oxo-2,3-dihydro-(7H)-pyrido-(1,2,3-de)-1,4-benzoxazine-6-carboxylate (1.0 g, 2.7 mmol) was added in one portion; then dichlorobis(triphenylphosphine) nickel (0.13 g, 0.2 mmol) was added in one portion. The reaction mixture was gradually warmed to ambient temperature and stirred for 24 hours. The dark brown mixture was poured onto a 1N hydrochloric acid solution (100 ml) and the aqueous mix was stirred for 15 minutes. Three extractions with chloroform (50 ml), drying the combined organic layers over magnesium sulfate, treatment with decolorizing charcoal and filtration through diatomaceous earth gave a yellow solution. Removal of solvent in vacuo afforded a bright yellow solid. Trituration with ether, filtration and drying in vacuo gave a pale yellow solid (0.67 g, 46% yield): m.p. 270°-272° C. NMR (CDCl3, 250 MHz): 8.42 (s, 1H), 7.85 (d, 1H, J=10 Hz), 7.55-7.40 (m, 5H), 4.42 (q, 2H, J=7 Hz), 4.50-4.35 (m, 3H), 1.62 (d, 3H, J=8 Hz), 1.45 (t, 3H, J=7 Hz).

reactant | phenyl lithium | 2.7M | C1(=CC=CC=C1)[Li]
reactant | Ethyl 9-fluoro-10-bromo-3-methyl-7-oxo-2,3-dihydro-(7H)-pyrido-(1,2,3-de)-1,4-benzoxazine-6-carboxylate | 2.7 mmol, 1.0 g | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)OCC)Br | C15H13BrFNO4
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ethyl 9-fluoro-10-phenyl-3-methyl-7-oxo-2,3-dihydro-(7H)-pyrido-(1,2,3-de)-1,4-benzoxazine-6-carboxylate | 0.67 g, 46% yield | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)OCC)C1=CC=CC=C1 | C21H18FNO4
